US09102632B2
500 mg (2.30 mM) of 3-mercapto-1-propylpyrazin-2(1H)-one, 319.2 μl (1.21 mM) of 4-chlorobenzylbromide and 637 mg (4.6 mM) of potassium carbonate in 4 ml of tetrahydrofurane were stirred overnight at room temperature. Water was added and the aqueous layer was extracted with ethyle acetate. The organic layer was separated and washed with water, dried on anhydrous sodium sulfate and evaporated under vacuum, to give an oil which was purified by silica gel column chromatography, using dichloromethane/dimethylketone (98/2) as eluant, to give 600 mg of 3-[(4-chlorobenzyl)thio]-1-propylpyrazin-2(1H)-one. Yield: 88%.

reactant | 3-mercapto-1-propylpyrazin-2(1H)-one | 2.30 mM, 500 mg | SC=1C(N(C=CN1)CCC)=O | C7H10N2OS
reactant | 4-chlorobenzylbromide | 1.21 mM, 319.2 μl | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
reactant | potassium carbonate | 4.6 mM, 637 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | tetrahydrofurane | 4 ml | O1CCCC1 | C4H8O
product | 3-[(4-chlorobenzyl)thio]-1-propylpyrazin-2(1H)-one | 600 mg, Yield: 88% | ClC1=CC=C(CSC=2C(N(C=CN2)CCC)=O)C=C1 | C14H15ClN2OS
